Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ yo F with a history of ___ 
___ disease, asthma (no hospitalizations or 
intubations) who presents with 1 week of shortness of breath and 
productive cough which has substantially worsened over the past 
2 days. On ___, patient noted worsening cough and increased SOB 
in the setting of recent sick contacts. She presented to urgent 
care at ___ where she was prescribed Tylenol with 
codeine and benzonatate. On ___, she went to an urgent care 
center and was prescribed prednisone (40 mg x5 days) which she 
took yesterday. She also reports using her albuterol rescue 
inhaler ___ times during the day, and ___ times per night since 
this date. Today she returned to urgent care and was given IV 
solumedrol as well as respiratory treatments, and was 
transferred to ___ for further workup. 

 In the ED, initial vitals:  99.5, 150, 143/64, 16, 100% RA
 - Exam notable for:  diffuse wheezing bilaterally
 - Labs notable for: WBC 15.8 w/ left shift. gluc-140, HCO3- 20. 
UA- with ketones of 30 without sign of acute infection. B-HCG 
negative
 - Imaging notable for: CXR showing no acute cardiopulmonary 
process 
 - Pt given:  2g Mg IV, 1 L NS, ipratropium neb
 - Vitals prior to transfer:  98.2, 120/80 , 105, 20, 100% RA
 On arrival to the floor, pt reports improved breathing on 1L 
NC. She reports her baseline peak flow is 520. Measured to be 
350 in ED. Improved to 375 after nebs.  
 ROS:  
 No fevers, chills, night sweats, or weight changes. No changes 
in vision or hearing, no changes in balance. No chest pain. No 
nausea or vomiting. No diarrhea or constipation. No dysuria or 
hematuria. No hematochezia, no melena. No numbness or weakness, 
no focal deficits.  
 

 
Past Medical History:
s/p appendectomy in ___
___ Disease- Requires ddAVP for surgical procedures 

asthma
 
Social History:
___
Family History:
Paternal grandmother- "hemophilia". No history of sudden cardiac 
death. 
 
Physical Exam:
================================
ADMISSION  PHYSICAL EXAM:  
================================
 Vitals:  98.2, 120/80, 105, 20, 100% 1L
 General: Alert, oriented, no acute distress  
 HEENT: Sclerae anicteric, MMM, oropharynx clear  
 Neck: supple, JVP not elevated, no LAD  
 Lungs: diffuse ronchi with mild expiratory wheezing, poor air 
movement
 CV: tachycardic with regular rhythm, Nl S1, S2, No MRG  
 Abdomen: soft, NT/ND bowel sounds present, no rebound 
tenderness or guarding, no organomegaly  
 GU: no foley  
 Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CN2-12 intact, no focal deficits  

================================
DISCHARGE PHYSICAL EXAM:
================================
Vitals: 97.8, 129/82, 93, 18, 100% RA
 General: Alert, oriented, no acute distress  
 HEENT: Sclerae anicteric, MMM, oropharynx clear  
 Neck: supple, JVP not elevated, no LAD  
 Lungs: Mild expiratory wheeze, improved air movement in 
bilateral bases.
 CV: RRR, Nl S1, S2, No MRG  
 Abdomen: soft, NT/ND bowel sounds present, no rebound 
tenderness or guarding, no organomegaly  
 GU: no foley  
 Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CN2-12 intact, no focal deficits 

 
Pertinent Results:
================================
ADMISSION RESULTS
================================
___ 06:24PM URINE  UCG-NEGATIVE
___ 06:24PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 06:24PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-40 BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 06:24PM URINE  RBC-3* WBC-2 BACTERIA-FEW YEAST-NONE 
EPI-2
___ 06:24PM URINE  MUCOUS-RARE
___ 03:00PM   GLUCOSE-140* UREA N-6 CREAT-0.6 SODIUM-140 
POTASSIUM-3.4 CHLORIDE-106 TOTAL CO2-20* ANION GAP-17
___ 03:00PM   WBC-15.8* RBC-3.99 HGB-11.7 HCT-35.5 MCV-89 
MCH-29.3 MCHC-33.0 RDW-12.3 RDWSD-39.8
___ 03:00PM   PLT COUNT-238

================================
PERTINENT RESULTS
================================
CXR ___  No acute intrathoracic process 
___ 09:15AM BLOOD calTIBC-293 Ferritn-PND TRF-225

================================
DISCHARGE RESULTS
================================
___ 06:55AM BLOOD WBC-8.0 RBC-3.50* Hgb-10.0* Hct-32.1* 
MCV-92 MCH-28.6 MCHC-31.2* RDW-13.0 RDWSD-42.9 Plt ___
___ 06:55AM BLOOD Glucose-77 UreaN-13 Creat-0.7 Na-142 
K-3.8 Cl-107 HCO3-23 AnGap-16
___ 06:55AM BLOOD Calcium-9.1 Phos-3.9 Mg-2.1

================================
IMAGING
================================
CXR ___ 3:19 ___
FINDINGS:  
APportable upright view of the chest. 
There is no focal consolidation, effusion, or pneumothorax. The 
cardiomediastinal silhouette is normal. Imaged osseous 
structures are intact. 
IMPRESSION:  
No acute intrathoracic process 

================================
URINE
================================
___ 06:24PM URINE Color-Yellow Appear-Clear Sp ___
___ 06:24PM URINE Blood-LG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-40 Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 06:24PM URINE RBC-3* WBC-2 Bacteri-FEW Yeast-NONE Epi-2
___ 06:24PM URINE UCG-NEGATIVE
___ 01:17AM URINE Color-Yellow Appear-Clear Sp ___
___ 01:17AM URINE Blood-MOD Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 01:17AM URINE RBC-1 WBC-1 Bacteri-FEW Yeast-NONE Epi-1
 
Brief Hospital Course:
=================================
PRIMARY REASON FOR ADMISSION:
=================================
___ with a history of asthma, iron deficiency and ___ 
___ disease who presents with dyspnea for several days.

=================================
ACTIVE ISSUES:
=================================
#Asthma Exacerbation: Patient presented with dyspnea for several 
days, peak flow down to 280-350 from 520, concerning for asthma 
exacerbation. Dyspnea improved with standing nebulizers and 
prednisone 40mg. She was also started on flovent and will be 
discharged with longer oral steroid taper (40mg x total of 5 
days, 30mg x 3 days, 20mg x 2 days, 10mg x 2 days). She is 
scheduled to see her home ___ in ___ this week 
and will establish care at ___ next month. 

# Anemia: Patient diagnosed with iron-deficiency anemia in the 
past and was anemic during admission. (Hgb 10.0 on discharge) 
Would recommend repeating CBC as outpatient and consideration of 
iron supplementation.

# Sinus tachycardia: The patient was tachycardic to the 150s on 
arrival to the ED, with improvement to low 100s at rest by 
discharge.  Ambulatory heart rates ranged from 110s-130s, 
improved mildly with IVF. Review of prior outpatient HR also 
showed tachycardia from 100-120s. She was monitored on telemetry 
and remained in sinus. Would recommend further outpatient workup 
of her ongoing sinus tachycardia.

# Hematuria: She has microscopic hematuria on urinalysis. Would 
recommend repeating UA as an outpatient.

=================================
TRANSITIONAL ISSUES: 
=================================
- Patient noted to have asymptomatic hematuria on UA. Please 
repeat urine testing as an outpatient
- She also had anemia (discharge hgb 10.0). This should be 
repeated as an outpatient. She may benefit from iron 
supplementation
- Discharged on prednisone taper (40mg x 5 total days, 30mg x 3 
days, 20mg x2 days, 10mg x2) and flovent with plans to follow up 
with home pulmonologist next week
- She was tachycardic during admission 100s at rest, 130s with 
ambulation, improving to 120s after IVF. Please monitor HR as an 
outpatient
- Full code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amoxicillin 500 mg PO Q8H 
2. Albuterol Inhaler ___ PUFF IH Q6H:PRN shortness of breath 
3. Qsymia (phentermine-topiramate) ___ mg oral Q24H 
4. Ortho Tri-Cyclen LO (28) (norgestimate-ethinyl estradiol) 
0.18/0.215/0.25 mg-25 mcg oral Q24H 
5. Guaifenesin ___ mL PO Q6H:PRN cough 

 
Discharge Medications:
1. Guaifenesin ___ mL PO Q6H:PRN cough 
2. Ortho Tri-Cyclen LO (28) (norgestimate-ethinyl estradiol) 
0.18/0.215/0.25 mg-25 mcg oral Q24H 
3. Albuterol Inhaler ___ PUFF IH Q6H:PRN shortness of breath 
4. Qsymia (phentermine-topiramate) ___ mg oral Q24H 
5. PredniSONE 40 mg PO DAILY 
RX *prednisone 10 mg 1 tablet(s) by mouth as directed Disp #*30 
Tablet Refills:*0
6. Fluticasone Propionate 110mcg 2 PUFF IH BID 
RX *fluticasone [Flovent HFA] 110 mcg/actuation 2 puff inhaled 
twice a day Disp #*1 Inhaler Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Asthma exacerbation

 
Discharge Condition:
AOx3, ambulating without assistance, breathing comfortably on 
room air. 

 
Discharge Instructions:
You were treated for an asthma exacerbation. Take your oral 
prednisone daily as prescribed. Use your albuterol inhaler when 
you have labored breathing as needed up to 6 times per day 
(about once every 4 hours). After your oral prednisone course is 
completed, use your Flovent inhaler daily to prevent future 
asthma exacerbations. Please follow up with your new outpatient 
pulmonologist, appointment information below. 
 
Followup Instructions:
___